* c:\users\chaithu\pictures\ajay\3bitflashadc\flashadc\flashadc.cir

.include lm_741.sub
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ priorityencoder
x1 ? net-_r2-pad1_ vin net-_x1-pad4_ ? net-_u3-pad1_ net-_x1-pad7_ ? lm_741
x2 ? net-_r2-pad2_ vin net-_x1-pad4_ ? net-_u3-pad2_ net-_x1-pad7_ ? lm_741
x3 ? net-_r3-pad2_ vin net-_x1-pad4_ ? net-_u3-pad3_ net-_x1-pad7_ ? lm_741
x4 ? net-_r4-pad2_ vin net-_x1-pad4_ ? net-_u3-pad4_ net-_x1-pad7_ ? lm_741
x5 ? net-_r5-pad2_ vin net-_x1-pad4_ ? net-_u3-pad5_ net-_x1-pad7_ ? lm_741
x6 ? net-_r6-pad2_ vin net-_x1-pad4_ ? net-_u3-pad6_ net-_x1-pad7_ ? lm_741
x7 ? net-_r1-pad2_ vin net-_x1-pad4_ ? net-_u3-pad7_ net-_x1-pad7_ ? lm_741
v2  net-_x1-pad7_ gnd 12
v1  gnd net-_x1-pad4_ 12
v3  net-_r2-pad1_ gnd 7
r2  net-_r2-pad1_ net-_r2-pad2_ 1k
r3  net-_r2-pad2_ net-_r3-pad2_ 1k
r4  net-_r3-pad2_ net-_r4-pad2_ 1k
r5  net-_r4-pad2_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r1-pad2_ 1k
r1  gnd net-_r1-pad2_ 1k
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ adc_bridge_8
* u4  net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ b2 b1 b0 dac_bridge_3
* u5  b2 plot_v1
* u6  b1 plot_v1
* u7  b0 plot_v1
* u1  vin plot_v1
v4 vin gnd  dc 7
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] u2
a2 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ gnd ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] u3
a3 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ ] [b2 b1 b0 ] u4
* Schematic Name:                             priorityencoder, NgSpice Name: priorityencoder
.model u2 priorityencoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(b2)
plot v(b1)
plot v(b0)
plot v(vin)
.endc
.end
